US05888422
In analogy to Example 1, from 4.1 g of 9,9,10,10-tetrafluoro-2,7-dibromo-phenanthrene and 10 mmol of octylmagnesium bromide. The catalyst used is 0.2 mmol of 1,3-bis(diphenylphosphine)butanenickel(ll) chloride. Chromatography gives 2.4 g of 9,9,10,10-tetrafluoro-2-bromo-7-octyl-9,10-dihydrophenanthrene.

reactant | 9,9,10,10-tetrafluoro-2,7-dibromo-phenanthrene | 4.1 g | FC1(C2=CC(=CC=C2C=2C=CC(=CC2C1(F)F)Br)Br)F | C14H6Br2F4
reactant | octylmagnesium bromide | 10 mmol | C(CCCCCCC)[Mg]Br
product | 9,9,10,10-tetrafluoro-2-bromo-7-octyl-9,10-dihydrophenanthrene | 2.4 g | FC1(C2=CC(=CC=C2C=2C=CC(=CC2C1(F)F)Br)CCCCCCCC)F | C22H23BrF4
